US04812164
using 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-pentafluoroethyl-2,4(1H,3H)-pyrimidinedione with sodium bicarbonate and dimethyl sulphate in acetone there is obtained 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-methoxy -4-pentafluoroethyl-6(1H)-pyrimidinone, m.p. 79°-81° C.;

reactant | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-pentafluoroethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=CC1=O)C(C(F)(F)F)(F)F)=O)F | C15H11ClF6N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-methoxy -4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OC)F | C16H13ClF6N2O3
